US06159904
0.6 Gram (1.5 mmol) of 4-ethylthio-5-methyl-6-ethylthiocarbonylthiochroman-1,1-dioxide, 0.12 g (2.1 mmol) of potassium hydroxide, 3 ml of ethanol and 1 ml of water were stirred under heat at 60° C. for 3 hours. After the completion of the reaction, the solvent was distilled off, 5 ml of water was added, and then 2N hydrochloric acid was added to adjust a pH of 1. Then, the mixture was extracted with ethyl acetate twice. An organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate, and the solvent was distilled off to give 0.51 g (yield 100%) of 4-ethylthio-5-methyl-6-carboxythiochroman-1,1-dioxide.

reactant | 4-ethylthio-5-methyl-6-ethylthiocarbonylthiochroman-1,1-dioxide | 1.5 mmol | C(C)SC1CCS(C2=CC=C(C(=C12)C)C(=S)CC)(=O)=O | C15H20O2S3
reactant | potassium hydroxide | 2.1 mmol, 0.12 g | [OH-].[K+]
reactant | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 4-ethylthio-5-methyl-6-carboxythiochroman-1,1-dioxide | 0.51 g, yield 100% | C(C)SC1CCS(C2=CC=C(C(=C12)C)C(=O)O)(=O)=O | C13H16O4S2
